US07253196B2
(1R,2S,4R)-5,5-Difluorobicyclo[2.2.1]heptan-2-ol
Palladium (10 wt. % on activated carbon, 0.28 g) was added to a solution of (1R,4R,5S)-5-(benzyloxy)-2,2-difluorobicyclo[2.2.1]-heptane (1.43 g, 6.0 mmol) in methanol (15 mL), and the mixture was placed under a balloon full of hydrogen. After stirring at ambient temperature for 4 h, the mixture was filtered through a pad of Celite, and the filtrate was concentrated in vacuo. The residue was adsorbed onto a small pad of silica gel, and eluted with 20% of ethyl acetate in hexanes. The solvents were removed in vacuo to give the title compound as a white solid.

reactant | (1R,4R,5S)-5-(benzyloxy)-2,2-difluorobicyclo[2.2.1]-heptane | 6.0 mmol, 1.43 g | C(C1=CC=CC=C1)O[C@@H]1[C@H]2CC([C@@H](C1)C2)(F)F | C14H16F2O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 15 mL | CO | CH4O
catalyst | Palladium | 0.28 g | [Pd] | Pd
product | (1R,2S,4R)-5,5-Difluorobicyclo[2.2.1]heptan-2-ol | FC1([C@H]2C[C@@H]([C@@H](C1)C2)O)F | C7H10F2O
